US07943609B2
2-[(11R)-10,11-Dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propan-2-ol (755 mg, 2.67 mmol) was dissolved in 30 mL of CH2Cl2 and treated with MCPBA (57-86%, 806 mg). After stirring for 75 minutes, the reaction was treated with 50 mL of 2% Na2CO3 solution and the layers were separated. The aqueous layer was then extracted with 10% methanol/CHCl3 (10×10 mL). The combined organic layers were washed with 10 mL of brine. The organic portion was then dried over Na2SO4, filtered and concentrated under reduced to give 2-[(11R)-5-oxido-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propan-2-ol (798 mg) as a light yellow solid.

reactant | 2-[(11R)-10,11-Dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propan-2-ol | 2.67 mmol, 755 mg | C1=C2C3=C(C=NC2=CC=C1)N=C1N3[C@H](COC1)C(C)(C)O | C16H17N3O2
reactant | MCPBA | 806 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Na2CO3 | 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-[(11R)-5-oxido-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propan-2-ol | 798 mg | [O-][N+]1=CC2=C(C3=CC=CC=C13)N1C(=N2)COC[C@@H]1C(C)(C)O | C16H17N3O3
